US09278985B2
Preparation 44: 7-Bromo-4-chloro-1H-indole
To a solution of 1-bromo-4-chloro-2-nitrobenzene (932 mg, 3.95 mmol) in tetrahydrofuran (10 mL), vinylmagnesium bromide (0.7 M in tetrahydrofuran) (12 mmol) in tetrahydrofuran (15 mL) was added drop wise at −40° C. After 1 h the reaction mixture was poured into saturated NH4Cl. The resulting organic layer was concentrated. The resulting residue was purified using a Teledyne ISCO chromatography system with a gradient eluent system of 2% ethyl acetate in hexane to yield the title compound (400 mg, 44%): 1H NMR (300 MHz, CDCl3) δ 6.73 (t, J=2.8 Hz, 1H), 7.02 (d, J=8.1 Hz, 1H), 7.19-7.39 (m, 2H), 8.43 (s, 1H).

reactant | 1-bromo-4-chloro-2-nitrobenzene | 3.95 mmol, 932 mg | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | vinylmagnesium bromide | 12 mmol, 0.7 M | C(=C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 7-Bromo-4-chloro-1H-indole | 400 mg, 44% | BrC=1C=CC(=C2C=CNC12)Cl | C8H5BrClN
